US09212182B2
A vial was charged with 1-(4-bromo-5-fluoro-2-methylphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (307 mg, 0.642 mmol), (3-fluorophenyl)boronic acid (117 mg, 0.834 mmol), potassium carbonate (266 mg, 1.926 mmol), and Pd(PPh3)4 (37.1 mg, 0.032 mmol). The vial was flushed with Ar (g), then 1,4-dioxane (2407 μl) and water (802 μl) were added. The vial was sealed and heated to 90° C. for 19 h. The reaction was cooled down to rt. The whole was extracted with EtOAc (3×25-mL). The organic layer was separated, combined, dried over MgSO4, filtered, and concentrated to afford colorless residue. The crude material was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 70% EtOAc in heptane, to provide 1-(2,3′-difluoro-5-methyl-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (179 mg, 56.5% yield) as off-white solid. m/z (ESI) [M+H]+=493.2. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.91 (s, 3 H) 6.44 (d, J=1.87 Hz, 1 H) 6.80 (d, J=9.02 Hz, 1 H) 6.85 (d, J=9.64 Hz, 1 H) 7.26-7.37 (m, 1 H) 7.44-7.54 (m, 3 H) 7.54-7.64 (m, 1 H) 7.75 (d, J=8.40 Hz, 1 H) 7.88 (dd, J=8.97, 2.23 Hz, 1 H) 8.28 (d, J=9.64 Hz, 1 H) 8.41 (d, J=2.18 Hz, 1 H) 8.71 (d, J=1.76 Hz, 1 H) 11.68 (s, 1 H).

reactant | 1-(4-bromo-5-fluoro-2-methylphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.642 mmol, 307 mg | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)C | C19H13BrFN3O4S
reactant | (3-fluorophenyl)boronic acid | 0.834 mmol, 117 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 1.926 mmol, 266 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.032 mmol, 37.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,3′-difluoro-5-methyl-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 179 mg, 56.5% yield | FC1=C(C=C(C(=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)C)C1=CC(=CC=C1)F | C25H17F2N3O4S
